US04678781
The starting material may be prepared as follows. Powdered 4,6-dichloro-2-methylquinoline (254 mg.) was added to a stirred solution of trimethyloxonium tetrafluoroborate (177 mg.) in acetonitrile (1 ml.), and stirring was continued overnight. The solvent was evaporated and the residue was triturated with ether to give 4,6-dichloro-1,2-dimethylquinolinium tetrafluoroborate (296 mg.). N.m.r. in solvent A: 3.07(s, 3H); 4.44(s, 3H); 7.9-8.8(complex, 4H).

reactant | 4,6-dichloro-2-methylquinoline | 254 mg | ClC1=CC(=NC2=CC=C(C=C12)Cl)C | C10H7Cl2N
reactant | trimethyloxonium tetrafluoroborate | 177 mg | F[B-](F)(F)F.C[O+](C)C
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 4,6-dichloro-1,2-dimethylquinolinium tetrafluoroborate | 296 mg | F[B-](F)(F)F.ClC1=CC(=[N+](C2=CC=C(C=C12)Cl)C)C | InChI=1S/C11H10Cl2N.BF4/c1-7-5-10(13)9-6-8(12)3-4-11(9)14(7)2;2-1(3,4)5/h3-6H,1-2H3;/q+1;-1
